US06326375B1
(4) Preparation of spiro[1H-isoindole-1,4′-piperidine]-3(2H)-one hydrochloride
2-Benzyl-1′-tert-butoxycarbonylspiro[1H-isoindole-1,4′-piperidine]-3(2H)-one (200 mg) was added to metallic sodium (235 mg) in liquid ammonia (10 mL) and the mixture was stirred for 30 minutes. To the reaction mixture was added methanol, neutralized with a saturated ammonium chloride aqueous solution and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and concentrated. The residue dissolved in methanol was stirred together with 4M hydrogen chloride/ethyl acetate at 50° C. for 1 hour. The reaction solution was concentrated to give the subject compound (591 mg).

reactant | 2-Benzyl-1′-tert-butoxycarbonylspiro[1H-isoindole-1,4′-piperidine]-3(2H)-one | 200 mg | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C12CCN(CC2)C(=O)OC(C)(C)C)=O | C24H28N2O3
reactant | sodium | 235 mg | [Na] | Na
reactant | ammonia | 10 mL | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | spiro[1H-isoindole-1,4′-piperidine]-3(2H)-one hydrochloride | 591 mg | Cl.N1CCC2(CC1)NC(C1=CC=CC=C12)=O | InChI=1S/C12H14N2O.ClH/c15-11-9-3-1-2-4-10(9)12(14-11)5-7-13-8-6-12;/h1-4,13H,5-8H2,(H,14,15);1H
